US04316906
The N-benzoyl-cis-4-phenylthio-L-proline is heated on a steam bath and 0.5 liters of glacial acetic acid are added. The mixture is swirled and 0.5 liters of water followed by 100 ml. of concentrated sulfuric acid are added. The turbid mixture is heated at reflux at an oil bath temperature of about 125° and maintained at reflux until the reaction is completed. The reaction liquid is cooled to room temperature and 0.75 liters of isobutyl acetate and 3 kg. of cracked ice are added with brisk agitation. 50 g. of concentrated aqueous sodium hydroxide solution are added and the product is collected and washed with methanol. The product is further purified by dissolution in aqueous sodium hydroxide, treatment with activated carbon, filtration, and careful crystallization with HCl. The crystals are collected, washed with water, and dried to yield cis-4-phenyl-thio-L-proline as a white crystalline powder; m.p. 240° (d); [α]D23 -118° (C=1, N sodium hydroxide).

reactant | N-benzoyl-cis-4-phenylthio-L-proline | C(C1=CC=CC=C1)(=O)N1[C@H](C(=S)O)C[C@@H](C1)C1=CC=CC=C1 | C18H17NO2S
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | isobutyl acetate | 0.75 liters | C(C)(=O)OCC(C)C | C6H12O2
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | 0.5 liters | O | H2O
solvent | acetic acid | 0.5 liters | C(C)(=O)O | C2H4O2
product | cis-4-phenyl-thio-L-proline | C1(=CC=CC=C1)[C@H]1C[C@H](NC1)C(=S)O | C11H13NOS
